US06921763B2
A mixture of 3-iodo-1-(3-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine dihydrochloride (0.17 g, 0.00042 mol), 2-[[(9H-9-fluorenylmethoxy)carbonyl]-(methyl)amino]-2-methylpropanoic acid (0.175 g, 0.00052 mol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.1 g, 0.00052 mol), N,N-diisopropylethylamine (0.23 g, 0.0018 mol) and 1-hydroxy-7-azabenzotriazole (0.057 g, 0.00042 mol) in anhydrous dichloromethane (7 mL) was stirred for 18 hours at room temperature. Additional 2-[[(9H-9-fluorenylmethoxy)carbonyl](methyl)amino]-2-methylpropanoic acid (0.044 g, 0.00013 mol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.025 g, 0.00013 mol) were added to the reaction and stirred for 16 hours. The solvent was removed under reduced pressure. The residue was partitioned between brine and ethyl acetate. The aqueous layer was extracted with ethyl acetate, and the combined organic solvent was removed under reduced pressure, and the residue was purified by RP-HPLC (Hypersilprep HS C18, 8 μm, 250×21.1 mm; 5%-100% over 20 min with 0.1 M ammonium acetate, 21 mL/min) to yield 9H-9-fluorenylmethyl N-{2-[3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidino]-1,1-dimethyl-2-oxoethyl}-N-methylcarbamate (0.030 g, 0.00005 mol).

reactant | 3-iodo-1-(3-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine dihydrochloride | 0.00042 mol, 0.17 g | Cl.Cl.IC1=NN(C2=NC=NC(=C21)N)C2CNCCC2
reactant | 2-[[(9H-9-fluorenylmethoxy)carbonyl]-(methyl)amino]-2-methylpropanoic acid | 0.00052 mol, 0.175 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N(C(C(=O)O)(C)C)C | C20H21NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.00052 mol, 0.1 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.0018 mol, 0.23 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxy-7-azabenzotriazole | 0.00042 mol, 0.057 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 2-[[(9H-9-fluorenylmethoxy)carbonyl](methyl)amino]-2-methylpropanoic acid | 0.00013 mol, 0.044 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N(C(C(=O)O)(C)C)C | C20H21NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.00013 mol, 0.025 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 9H-9-fluorenylmethyl N-{2-[3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidino]-1,1-dimethyl-2-oxoethyl}-N-methylcarbamate | 0.00005 mol, 0.030 g | NC1=C2C(=NC=N1)N(N=C2I)C2CN(CCC2)C(C(C)(C)N(C(OCC2C1=CC=CC=C1C=1C=CC=CC21)=O)C)=O | C30H32IN7O3
